US06033882
A solution of sodium 2-oxo-4-phenyl butanoate (200 mg, 10 mmol) and sodium formate (0.17 g, 2.5 mmol) in Tris buffer (5 mM; pH adjusted to 7.5 with 2M HCl), NADH (14 mg, 0.02 mM), dithiothreitol (5.0 μl of a 1M aqueous solution), formate dehydrogenase from yeast (Boehringer Mannheim, 10 mg, 5U) and R-lactate dehydrogenase isolated from Lacrobacillus delbrueckii ssp. Bulgaricus (16 mg, 250U see preparation below) were added successively to the solution at room temperature under nitrogen. The mixture was stirred under nitrogen for 24 hours, with periodic addition of HCl (1M; 0.9 ml) to maintain the pH in the range of 6-6.5. The reaction mixture was reduced to half volume in vacuo and, after acidification to pH2, subjected to a normal ethyl acetate (4×70 ml) work-up with brine wash (70 ml) to afford (R)-2-hydroxy-4-phenyl butanoic acid as a white solid (177 mg, 92%). Recrystallisation from tetrachloromethane gave (R)-2-hydroxy-4-phenyl butanoic acid as an amorphous white solid. The title compound gave a melting point of 113-114° C. and an [α]D22 value (c=2.21, EtOH) of -8.4. 1H-NMR and capillary GC analysis of the Mosher derivative of the corresponding methyl ester indicated that homochiral (>99.5% ee) product had been obtained.

reactant | sodium formate | 2.5 mmol, 0.17 g | C(=O)[O-].[Na+]
reactant | HCl | 2M | Cl | ClH
reactant | NADH | 0.02 mM, 14 mg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | dithiothreitol | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | formate | C(=O)[O-]
reactant | HCl | 1M, 0.9 ml | Cl | ClH
solvent | Tris | C(C(CO)(CO)N)O | C4H11NO3
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | (R)-2-hydroxy-4-phenyl butanoic acid | 177 mg, 92% | O[C@@H](C(=O)O)CCC1=CC=CC=C1 | C10H12O3
